US05354502
340 cm] (1.3 mol) of a 70% NaAlH2 (OC2H4OCH3)2 in toluene with 340 cm3 of anhydrous toluene was stirred at room temperature while adding 57 g (0.2 mol) of diethyl 4-propylcyclohexylmalonate dropwise for 30 minutes, after which it was stirred for 5 hours on a hot water bath at 80°-90° C. The reactant was cooled to room temperature, and 50 cm3 of water and 1,000 cm3 of 15% HCl were dropped while stirring. The oily layer was removed, and the water layer was extracted with toluene and combined with the oily layer and washed with 10% HC1 and water. The toluene was removed, and the residue was recrystallized from hexane to obtain 18 g (0.09 mol) of 2-(4'-propylcyclohexyl)propane-1,3-diol (trans-cis form mixture).

reactant | diethyl 4-propylcyclohexylmalonate | 0.2 mol, 57 g | C(CC)C1CCC(CC1)C(C(=O)OCC)C(=O)OCC | C16H28O4
reactant | water | 50 cm3 | O | H2O
reactant | HCl | 1,000 cm3 | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 340 cm3 | C1(=CC=CC=C1)C | C7H8
product | 2-(4'-propylcyclohexyl)propane-1,3-diol | 0.09 mol, 18 g | C(CC)C1CCC(CC1)C(CO)CO | C12H24O2
